US05312747
4-Methylumbelliferyl-N-acetylneuraminic acid (commercially available), 100 mg is incubated with 150 units of sialidase-L in 25 ml of 50 mM sodium acetate buffer, pH 5.5 at 37° C. for 17 hours. The reaction is terminated by the addition of an equal volume of ethanol and the precipitate is removed by centrifugation. The clear supernatant is evaporated to dryness, dissolved in 30 ml of chloroform/methanol (2:1 ν/ν) and subjected to Folch partitioning (Folch, J. Lees, M. and Sloan Stanley, G. H. (1957) J. Biol. Chem. 226, 479-509), by vortexing with 6 ml of water. The 2,7-anhydro-N-acetylneuraminic acid is recovered in the aqueous phase. The organic phase is washed with 8 ml of water. The aqueous phase and the water wash are combined and evaporated to dryness, dissolved in 8 ml of water and applied to a Bio-Gel p-6 column (2.5×90 cm) equilibrated with water. The column is eluted with water at 20 ml per hour wherein 5-ml fractions are collected. Three microliter aliquots of each fraction are analyzed by thin-layer chromatography (solvent:n-butanol/acetic acid/water (2:1:1 ν/ν) and resorcinol spray to locate the product). Fractions containing 2,7-anhydro-N-acetylneuraminic acid are pooled, lyophilized, dissolved in 20 ml of water and applied to a Dowex-1×8 column (formate form, 2×50 cm) equilibrated with water. After washing the column with 800 ml of water to remove the unadsorbed material, the column is eluted with 500 ml of 0.2M formic acid followed by 400 ml of 0.4M formic acid at a flow rate of 40 ml per hour; 10-ml fractions are collected. Under this condition 2,7-anhydro-N-acetylneuraminic acid is eluted by 0.4M formic acid and the eluate is evaporated to dryness to obtain 15 mg of pure 2,7-anhydro-N-acetylneuraminic acid. The above scheme can be proportionally scaled up for large scale preparation of 2,7-anhydro-N-acetylneuraminic acid.

reactant | 4-Methylumbelliferyl N-acetylneuraminic acid | CC1=CC(=O)OC2=CC=CC=C12.C(C)(=O)N[C@@H]1[C@H](CC(C(O)=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O
solvent | sodium acetate | 50 mM, 25 ml | C(C)(=O)[O-].[Na+]
product | 2,7-anhydro-N-acetylneuraminic acid | 15 mg | C(C)(=O)N[C@@H]1[C@H](CC2(C(O)=O)O[C@H]1[C@H](O2)[C@H](O)CO)O | C11H17NO8
